US07253197B2
1-Dimethylaminomethylene-3-(3-cyano-phenyl)-thiourea
A mixture of 3 g (16.9 mmol) 1-(3-Cyanophenyl)-2-thiourea and 20 ml N,N-Dimethylformamide dimethyl acetal was heated to 100° C. for 1 h. After evaporation of the volatiles the precipitate was suspended in DCM, filtered and dried to yield 3.56 g (91%) of the title compound.

reactant | 1-(3-Cyanophenyl)-2-thiourea | 16.9 mmol, 3 g | C(#N)C=1C=C(C=CC1)NC(=S)N | C8H7N3S
reactant | N,N-Dimethylformamide dimethyl acetal | 20 ml | COC(N(C)C)OC | C5H13NO2
product | 1-Dimethylaminomethylene-3-(3-cyano-phenyl)-thiourea | 3.56 g, 91% | CN(C)C=NC(=S)NC1=CC(=CC=C1)C#N | C11H12N4S
